US04931436
5,11-Dihydro-11-[[3-[3-(4-morpholinyl)propyl]-1-piperidinyl]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one-hydrochloride
Prepared analogously to Example 1 from 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 3-[3-(4-morpholinyl)propyl]piperidine in a yield of 61% of theory. Colourless crystals, m.p. >260° C. (from ethanol/water/acetone).

reactant | 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | 3-[3-(4-morpholinyl)propyl]piperidine | N1(CCOCC1)CCCC1CNCCC1 | C12H24N2O
solvent | ethanol water acetone | C(C)O.O.CC(=O)C
product | 5,11-Dihydro-11-[[3-[3-(4-morpholinyl)propyl]-1-piperidinyl]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one-hydrochloride | yield of 61% | Cl.N1(CCOCC1)CCCC1CN(CCC1)C(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | InChI=1S/C25H31N5O3.ClH/c31-24-20-8-1-2-10-22(20)30(23-21(27-24)9-3-11-26-23)25(32)29-13-5-7-19(18-29)6-4-12-28-14-16-33-17-15-28;/h1-3,8-11,19H,4-7,12-18H2,(H,27,31);1H
